US04418202
Utilizing the product prepared in Example I, a transalcoholysis was carried out with 3-phenoxybenzyl alcohol to obtain (3-phenoxy)benzyl 2-vinyl-1-cyanocyclopropane-1-carboxylate. A three-fold molar excess of the ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate was employed for the reaction. About 0.7 wt. percent calcium acetate, based on the total reactant charge, was used as the catalyst and a small amount of hydroquinone added as an oxidation and polymerization inhibitor. The reaction mixture was heated with agitation to 150° C. and about 4 wt. percent dibutyltin oxide charged. After 5 hours additional heating the reaction was terminated and the resulting product, containing about 35% of the desired (3-phenoxy)benzyl 2-vinyl-1-cyanocyclopropane-1-carboxylate, dissolved in ethyl ether, filtered to remove insoluble catalyst residue, washed with 5% aqueous sodium hydroxide and saturated sodium chloride solutions. After evaporation of the ethyl ether, the product was dissolved in toluene and separated from the unreacted starting materials using a Waters Preparatory Liquid Chromatograph 500A equipped with a gel permeation column and operated at a flow rate of 0.1 l/min. After two passes, 92+% pure (3-phenoxy)benzyl 2-vinyl-1-cyanocyclopropane-1-carboxylate was obtained and the structure of the product confirmed by mass spectroscopy and nuclear magnetic resonance spectroscopy.

reactant | ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate | C(=C)C1C(C1)(C(=O)OCC)C#N | C9H11NO2
reactant | calcium acetate | C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | dibutyltin oxide | C(CCC)[Sn](CCCC)=O
product | (3-phenoxy)benzyl 2-vinyl-1-cyanocyclopropane-1-carboxylate | C(=C)C1C(C1)(C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C#N | C20H17NO3
